US05280033
Trifluoroacetic acid (1.3 ml) is added dropwise at -10° C. to 0.23 g (0.643 mmoles) of tert-butyl (E)-5-[1-phenyl-2-(imidazol-1-yl)ethylidene]aminoxypentanoate. The mixture is stirred at -10° C. for 1 hour and 30 minutes. A cooled saturated sodium hydrogencarbonate solution is added to the reaction mixture at 0° C. till pH=7 and the mixture is extracted with ethyl acetate. The aqueous phase is cooled, acidified with acetic acid and extracted twice with ethyl acetate. The organic phase is dried and evaporated. The residue is taken up twice with toluene and evaporated under vacuum without heating, yielding 0.11 g (57%) of (E)-5-[1-phenyl-2-(imidazol-1-yl)ethylidene]aminoxypentanoic acid.

reactant | Trifluoroacetic acid | 1.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (E)-5-[1-phenyl-2-(imidazol-1-yl)ethylidene]aminoxypentanoate | 0.643 mmoles | C1(=CC=CC=C1)/C(/CN1C=NC=C1)=N\OCCCCC(=O)OC(C)(C)C | C20H27N3O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | (E)-5-[1-phenyl-2-(imidazol-1-yl)ethylidene]aminoxypentanoic acid | 0.11 g, 57% | C1(=CC=CC=C1)/C(/CN1C=NC=C1)=N\OCCCCC(=O)O | C16H19N3O3
